US08207164B2
h) [(2R*,5R*)-5-(3-Bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
To a solution of (2R*,5R*)-5-(3-bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (1.5 g, 4.27 mmol) in acetonitrile (30 ml) was added Boc2O (1.86 g, 8.54 mmol) and NEt3 (1.79 ml, 12.8 mmol) and the reaction Mixture was stirred for 4 h at 25° C. The reaction mixture was added to aqueous NaH3PO4 solution and extracted with EtOAc. Combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by flash-chromatography on silica gel (hexane to hexane/EtOAc 1:1) to provide the title compound as a light yellow oil: TLC (hexane/EtOAc 3:1): Rf=0.57; HPLC RtH5=1.549 min; 1H NMR (360 MHz, CDCl3): δ 7.50 (m, 2H), 7.30 (m, 2H), 4.04 (s, 2H), 1.69 (s, 3H), 1.64 (s, 3H), 1.57 (s, 9H); ESIMS: 451, 453 [(M+H)+].

reactant | (2R*,5R*)-5-(3-bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 4.27 mmol, 1.5 g | BrC=1C=C(C=CC1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C | C13H14BrF3N2O
reactant | Boc2O | 8.54 mmol, 1.86 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NEt3 | 12.8 mmol, 1.79 ml | CCN(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | [(2R*,5R*)-5-(3-Bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=CC(=CC=C1)Br)(C(F)(F)F)C)=O | C18H22BrF3N2O3
